Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amlodipine / Amoxicillin / Benadryl / Erythromycin Base / 
potassium / lisinopril / metoprolol / Plavix / felodipine
 
Attending: ___.
 
Chief Complaint:
"Feeling Unwell"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ PMHx of CAD s/p CABG (___) s/p BMS in RCA (___), sCHF 
(EF ___, COPD, HTN presents "feeling unwell."  He reports 
having diarrhea and poor oral intake over last 4 days.  He has 
not taken any of his medications over this time because he has 
not felt well enough to do so.  He has had diarrhea twice per 
day over the last four days and had nausea and emesis once in ED 
today.  He has also had malaise, fatigue, fever, chills, night 
sweats, and decreased PO intake.  He denies cough, chest pain, 
SOB, HA, dysuria, abdominal pain.  He presented to the ED today 
after calling his physician and describing his symptoms.  Given 
that he has not tolerated PO intake or medications, his 
physician recommended that he present to the ED.

In the ED, initial vitals were:  97.8 96 156/94 16 97% RA.  Labs 
showed hypoNa to 122.  CXR showed right lung base opacity liekly 
atelectasis vs. pneumonia.  Pt was given IVF (500 ml NS), 
levofloxacin 750 mg, and furosemide 20 mg PO.  He vomited once 
in the ED and got zofran.

Of note he had a recent admission ___ - ___ for sepsis 
during which he presented with hyponatremia (Na 125 on 
admission).  At that time, it was felt that he had hypovolemic 
hyponatremia and his Na increased with IVF and improved PO 
intake.  His Na on discharge on ___ was 134.
 
On the floor, he is comfortable in bed and denies abdominal pain 
or nausea.  
 
Past Medical History:
PAST MEDICAL HISTORY:  
-Coronary artery disese: bypass graft x4, left internal mammary 
artery to left anterior descending artery, saphenous vein graft 
to right coronary artery, and saphenous vein sequential graft to 
ramus 
and obtuse marginal arteries; Bare metal stent
-Carotid artery disease s/p left CEA in ___
-Hypertension
-Hyperlipidemia
-COPD
-Asbestosis exposure
-PAD s/p aorto-bifemoral bypass grafting ___
-Anemia
-Insomnia
-Recurrent transitional bladder cancer s/p TURP x 3
-Restless leg syndrome
-Prior heavy ETOH use
-Old TB- s/p treatment with INH in ___
-Depression
-Anxiety
-Sepsis of unknown source ___

PAST SURGICAL HISTORY:
-Emergent abdominal surgery after a traumatic accident in ___ 
-Cataract surgery, bilateral
-Left CEA in ___
-Aorto-Bifemoral bypass grafting ___
-TURP x3
-BMS stent of RCA ___
 
 
Social History:
___
Family History:
Premature coronary artery disease- Father had a
"hole in his heart" died at age ___ from lung disease and
alcoholism. Mother died at age ___ from TB

 
Physical Exam:
ON ADMISSION: 
VS:  99.4 90 131/64 20 97%RA
Weight: 73.3 kg
Gen:  NAD
HEENT:  JVP 5 cm H2O
CV:  RRR, S1 and S2, no m/r/g
Pulm:  CTAB
Abd:  BS+, soft, NT, ND, no HSM
Ext:  WWP, no ___ Edema
Skin:  No cutaneous eruption noted
Neuro:  A&Ox3, grossly intact
Psych:   Appropriate

ON DISCHARGE:
VS: 97.7 F, BP 120s/60s, HR 70, RR 20, 99% RA 
GENERAL: NAD, alert, interactive  
HEENT: No JVD, small areas of erythema around the corners of his 
lips attributed to dry skin
CV: RRR, no murmurs, rubs, gallops 
LUNGS: CTAB, pt unable to sit up fully for exam  
ABDOMEN: soft/NT/ND. No HSM.  
EXTREMITIES: WWP, no edema. Small hematomas on forearms b/l. 
NEURO: awake, A&Ox3  
 
 
Pertinent Results:
==ADMISSION LABS==
___ 05:50AM BLOOD WBC-4.0 RBC-3.98* Hgb-10.2* Hct-30.6* 
MCV-77* MCH-25.6* MCHC-33.3 RDW-15.8* RDWSD-43.8 Plt ___
___ 05:50AM BLOOD Neuts-78.8* Lymphs-4.8* Monos-15.8* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-3.16# AbsLymp-0.19* 
AbsMono-0.63 AbsEos-0.00* AbsBaso-0.01
___ 07:10AM BLOOD ___ PTT-26.1 ___
___ 05:50AM BLOOD Glucose-113* UreaN-9 Creat-0.6 Na-122* 
K-3.4 Cl-91* HCO3-19* AnGap-15
___ 05:50AM BLOOD Lipase-29
___ 05:50AM BLOOD cTropnT-<0.01
___ 05:50AM BLOOD proBNP-980*
___ 05:50AM BLOOD Albumin-3.3* Calcium-9.0 Phos-2.5* Mg-1.7

==DISCHARGE LABS==

___ 09:00AM BLOOD WBC-2.9* RBC-4.14* Hgb-10.3* Hct-32.4* 
MCV-78* MCH-24.9* MCHC-31.8* RDW-16.0* RDWSD-46.0 Plt ___
___ 09:00AM BLOOD Plt ___
___ 09:00AM BLOOD Calcium-9.0 Phos-2.4* Mg-1.9

==OTHER RESULTS==
EKG ___ (on admission): rate 98, sinus rhythm

Stress Test ___ (___): No e/o myocardial ischemia.  Similar 
to prior.

CXR ___:
Mild right lung base opacity is likely atelectasis, although 
pneumonia is possible in correct clinical setting.

 
Brief Hospital Course:
___ CAD s/p recent CABG and PCI, CHF, COPD, HTN p/w diarrhea, 
fever, malaise, decreased PO intake, and hyponatremia.

==ACTIVE ISSUES==

# Hyponatremia: The pt had a sodium level of 122 on admission. 
The etiology was felt to be hypovolemic hyponatremia ___ poor PO 
intake for four days prior to presentation, as it had been on 
previous admissions. Low FENa and compressible IVC on u/s were 
also suggestive of this. He had diarrhea which could have caused 
GI sodium loss. As his hospitalization progressed, his sodium 
became suggestive of underlying SIADH. Suspicions were raised 
when his sodium improved with fluid restriction. This could have 
been possible due to his GI infection, stress due to poor PO 
intake, and/or the presence of a pulmonary nodule which was not 
evaluated further during this admission. Given that a potential 
cause of his SIADH could be his pramipexole, his home dose of 
0.5 mg BID was reduced to 0.25 mg BID. 

# Diarrhea: The pt presented with several days of diarrhea and 
poor PO intake that made a viral gastroenteritis likely. He was 
started on PO flagyl for possibility of C. diff, but test 
returned negative so his flagyl was d/c'ed. 

==CHRONIC ISSUES==

# CAD/CABG: The pt was continued on ASA81, plavix, atorvastatin, 
and carvedilol. 

# chronic diastolic CHF: The pt's furosemide was held given 
volume depletion and hyponatremia. He was not restarted on this 
medication. 

# HTN: the pt was continued on his home carvedilol. His losartan 
was initially held, and on day of discharge he was restarted at 
a reduced dose of 12.5 mg. 

# COPD: the pt was continued on Advair, tiotropium, and 
albuterol PRN.

# BPH: the pt was continued on tamsulosin

***Transitional issues***: 
- Pt was found on chest CT in ___ to have a pulmonary nodule 
approx 7 mm in size. He should have follow up chest CT on this 
nodule in ___. 
- The pt's home lasix and losartan were initially held; he was 
restarted on a reduced dose of losartan 12.5 mg daily on day of 
discharge. He should discuss whether he needs to continue lasix 
with his PCP. 
- The pt was found to have continued leukopenia to 2.___s mild monocytosis during his stay. This had been noted on 
previous admissions as well a few months ago. He should have 
hematology f/u in the outpatient setting with consideration of 
bone marrow biopsy. 
- The pt should have colonoscopy given his microcytic anemia, as 
well as iron studies. 
- The pt's home dose of pramipexole 0.5 mg BID was reduced to 
0.25 mg BID due to concern that it might be causing SIADH. 
- The pt should have labwork in 3 days (___) to evaluate his 
creatinine and iron studies and CBC. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN COPD 
2. Aspirin EC 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Carvedilol 3.125 mg PO BID 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. FoLIC Acid 1 mg PO DAILY 
7. Furosemide 20 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Pramipexole 0.5 mg PO BID 
10. Thiamine 100 mg PO DAILY 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. TraZODone 25 mg PO QHS:PRN sleep 
13. Cyanocobalamin 1000 mcg PO DAILY 
14. Losartan Potassium 25 mg PO DAILY 
15. Tamsulosin 0.4 mg PO QHS 
16. Docusate Sodium 100 mg PO BID 
17. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN COPD 
2. Aspirin EC 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Carvedilol 3.125 mg PO BID 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
7. FoLIC Acid 1 mg PO DAILY 
8. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Thiamine 100 mg PO DAILY 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. Pramipexole 0.25 mg PO BID 
RX *pramipexole 0.25 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0
13. Tamsulosin 0.4 mg PO QHS 
14. Losartan Potassium 12.5 mg PO DAILY 
RX *losartan 25 mg 0.5 (One half) tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0
15. Outpatient Lab Work
ICD-9: leukopenia (288.50) 
Please obtain CBC by ___ and fax results to Dr. ___ at 
___. 

ICD-9: SIADH (253.6) 
Please obtain chem-7 by ___ and fax results to Dr. ___ 
at ___

ICD-9: microcytic anemia (280.9)
Please obtain iron studies (serum iron, TIBC/transferritin, 
ferritin) and fax results to Dr. ___ at ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Prinary:
Acute gastroenteritis and diarrhea
Hypovolemic hyponatremia and syndrome of inappropriate ADH 

Secondary:
- Leukopenia
- Anemia
- Chronic systolic heart failure with moderate MR ___ 30%)
- NSTEMI secondary to SVG-RCA graft occlusion s/p BMS mRCA 
___
- CAD s/p CABG (LIMA->LAD, SVG->RCA, SVG Ramus/OM) ___
- PVD s/p bilateral aorto-bifemoral endarterectomy and bypass 
___
- Carotid artery stenosis s/p left ___
- Hypertension
- COPD
- Anxiety/depression
- Restless leg syndrome
- GERD
- Benign pulmonary nodules (PET-CT ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.  You presented with 
diarrhea, decresed food intake, and not feeling well.  You also 
had a low sodium level.  This was felt to be due to being 
dehydrated and a side effect of the pramipexole, the dose of 
which we have reduced. You also should avoid drinking more than 
2L of fluid in a day. Your diarrhea resolved in the hospital and 
your sodium improved.  Please be sure to go to your follow up 
appointments as scheduled.  

Your pramipexole dose was reduced due to concern that it could 
be causing your sodium level to become low. Please discuss the 
new dose with your primary care doctor. 

The are a number of studies and tests that we will recommend to 
your PCP that should be done in the coming months. These include 
lab work to evaluate for the cause of your anemia, a 
colonoscopy, and a repeat chest CT to monitor the nodule that 
was seen in ___.

We have not restarted your lasix due to its potential effects on 
sodium levels. Please discuss with your PCP about when to 
restart this medication.

Thank you for allowing us to participate in your care. 

Sincerely,

Your ___ Team
 
Followup Instructions:
___